US09315501B2
Step 1. 4-Bromo-5-(cyclobutylmethoxy)benzene-1,2-diamine
To a solution of 4-bromo-5-(cyclobutylmethoxy)-2-nitroaniline (1.027 g, 3.410 mmol) ion 1:1 EtOAc/MeOH (40. mL) was added saturated aqueous solution of NH4Cl (3.0 mL). The suspension was cooled to 0° C. using an ice bath, and zinc powder (1.8 g, 28 mmol) was added in three portions over 10 minutes. The reaction mixture was allowed to warm to room temperature and stirred for 2 h. The reaction mixture was then warmed to 55° C., and the reaction mixture was stirred for an additional 1 h at that temperature. The reaction mixture was diluted with EtOAc and filtered through Celite. The filter cake was washed with EtOAc. The filtrate was washed with saturated aqueous solution of NaHCO3 (100 mL) and then brine (100 mL). The resulting organic layer was dried over Na2SO4, filtered, and concentrated to afford a purple oil (1.017 g, >99%). LCMS calculated for C11H15BrN2O (M+H)+: m/z=271.0, 273.0. found: 271.0, 273.0.

reactant | 4-bromo-5-(cyclobutylmethoxy)-2-nitroaniline | 3.410 mmol, 1.027 g | BrC1=CC(=C(N)C=C1OCC1CCC1)[N+](=O)[O-] | C11H13BrN2O3
reactant | EtOAc MeOH | CCOC(=O)C.CO
reactant | NH4Cl | 3.0 mL | [NH4+].[Cl-]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc | 28 mmol, 1.8 g | [Zn] | Zn
product | 4-Bromo-5-(cyclobutylmethoxy)benzene-1,2-diamine | 1.017 g, >99% | BrC=1C=C(C(=CC1OCC1CCC1)N)N | C11H15BrN2O
